US09062078B2
Step A: 7-methoxyquinoline-8-carboxylic acid.
In 1 g separate batches a mixture of 2-amino-6-methoxybenzoic acid (11 g, 66 mmol) and acrolein (4.8 mL, 72 mmol) in 1,4-dioxane (66 mL) was heated in a microwave reactor for 20 min at 200° C. After combining the reactions, the mixture was concentrated and purified via silica gel chromatography (0-10% MeOH in DCM) to give the title compound (2.8 g, 20%). MS (ESI) mass calcd. for C11H19NO3, 203.1; m/z found 204.0 [M+H]+.

reactant | 2-amino-6-methoxybenzoic acid | 66 mmol, 11 g | NC1=C(C(=O)O)C(=CC=C1)OC | C8H9NO3
reactant | acrolein | 72 mmol, 4.8 mL | C(=O)C=C | C3H4O
solvent | 1,4-dioxane | 66 mL | O1CCOCC1 | C4H8O2
product | 7-methoxyquinoline-8-carboxylic acid | 2.8 g, 20% | COC1=CC=C2C=CC=NC2=C1C(=O)O | C11H9NO3
